US06540795B2
3,3-Dimethyl-1-oxa-4-azaspiro[4.5]decane
Into a solution of 45 g (460 mmol) of cyclohexanone in 300 mL of toluene is added 35.6 g (400 mmol) of 2-amino-2,2-dimethylethanol. The reaction mixture is then heated to reflux and the by-product water is collected by a Dean-Stark trap. After 16 hours of heating at reflux, the reaction mixture is allowed to cool to ambient temperature and is then concentrated under vacuum to give 55 g of a yellow liquid. The product, identified by mass spectroscopy (m/z=169) is obtained in an 81.4% yield. The structure is confirmed by 1Hnmr.

reactant | cyclohexanone | 460 mmol, 45 g | C1(CCCCC1)=O | C6H10O
reactant | 2-amino-2,2-dimethylethanol | 400 mmol, 35.6 g | NC(CO)(C)C | C4H11NO
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 3,3-Dimethyl-1-oxa-4-azaspiro[4.5]decane | 55 g, 81.4% yield | CC1(COC2(N1)CCCCC2)C | C10H19NO
